US05939413
To an ice-cooled solution of (1R)-N1 -(tert-butoxycarbonyl)-N2 -(bromoacetyl)-1-(1H-indol-3-ylmethyl)-1,2-ethanediamine (9.32 g) in ethyl acetate (90 ml) was added 4N hydrogen chloride in ethyl acetate solution (90 ml). The mixture was stirred at the same temperature for 50 minutes and then evaporated under reduced pressure. Dichloromethane and aqueous saturated sodium bicarbonate solution were added to the residue. The organic layer was separated. The aqueous layer was extracted six times with dichloromethane. The extracts were combined and dried over magnesium sulfate, and concentrated under reduced pressure to give (1R)-N2 -(bromoacetyl)-1-(1H-indol-3-ylmethyl)-1,2-ethanediamine (3.01 g) as an oil.

reactant | (1R)-N1 -(tert-butoxycarbonyl)-N2 -(bromoacetyl)-1-(1H-indol-3-ylmethyl)-1,2-ethanediamine | 9.32 g | C(C)(C)(C)OC(=O)N[C@@H](CNC(CBr)=O)CC1=CNC2=CC=CC=C12 | C18H24BrN3O3
reactant | hydrogen chloride | 4N | Cl | ClH
solvent | ethyl acetate | 90 ml | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 90 ml | C(C)(=O)OCC | C4H8O2
product | (1R)-N2 -(bromoacetyl)-1-(1H-indol-3-ylmethyl)-1,2-ethanediamine | 3.01 g | BrCC(=O)NC[C@H](N)CC1=CNC2=CC=CC=C12 | C13H16BrN3O
